US08212045B2
N-(3-(2-ethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-((2S,3S)-3-(methoxymethyl)-1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine (1.6 g, 2.70 mmol) was dissolved in EtOH (30 mL) and 4N HCl (1 mL) added and heated to 50° C. overnight. Additional 4N HCl was added (1 mL) and heated for 4 hours. The reaction was cooled to ambient temperature, partitioned between CH2Cl2 and saturated aqueous sodium bicarbonate, extracted with CH2Cl2, dried over sodium sulfate, filtered and concentrated. The residue was purified over silica gel (10% methanol in EtOAc) to afford (1S,2S)-1-(5-(3-(2-ethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)-3-methoxypropane-1,2-diol hydrochloride (0.957 g, 1.74 mmol, 64.6% yield) as a tan solid after HCl salt formation. Mass Spectrum (apci) m/z=513.1 (M+H—HCl).

reactant | N-(3-(2-ethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-((2S,3S)-3-(methoxymethyl)-1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine | 2.70 mmol, 1.6 g | C(C)C1=NC=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)NC1=NC(=NS1)[C@@H]1OC2(O[C@H]1COC)CCCCC2 | C29H32N6O4S2
reactant | HCl | 4N, 1 mL | Cl | ClH
reactant | HCl | 4N | Cl | ClH
solvent | EtOH | 30 mL | CCO | C2H6O
product | (1S,2S)-1-(5-(3-(2-ethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)-3-methoxypropane-1,2-diol hydrochloride | 1.74 mmol, 0.957 g, 64.6% yield | Cl.C(C)C1=NC=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)NC1=NC(=NS1)[C@@H]([C@H](COC)O)O | InChI=1S/C23H24N6O4S2.ClH/c1-3-15-17(7-6-10-24-15)33-18-11-14(34-19-8-4-5-9-25-19)12-26-21(18)27-23-28-22(29-35-23)20(31)16(30)13-32-2;/h4-12,16,20,30-31H,3,13H2,1-2H3,(H,26,27,28,29);1H/t16-,20+;/m0./s1
